US06822090B2
To the solution of 750 mg of 3′,5′-O-bis (t-butyldimethylsilyl)-2′-O-methyl uridine in 10 mL of acetonitrile was added 0.23 mL (1.2 times moles based on the uridine derivative) of 1-methylpiperidine and 0.45 mL of triethylamine, and the mixture was cooled. The solution of 614 mg of p-toluenesulfonyl chloride in 5 ml of acetonitrile was added dropwise with ice cooling, and the mixture was stirred for 1 hour. After the disappearance of the starting material, an 1 mL aliquot of the reaction solution was concentrated, and the residue was triturated with ether to remove the precipitated crystals by filtration. The filtrate was concentrated, and the residue was then washed with n-hexane and dried to give [[3,5-O-bis(t-butyldimethylsilyl)-2-O-methylribofuranos-1-yl]-2-oxo-1,2-dihydro-4-pyrimidinyl]-1-methylpiperidinium chloride (a reaction intermediate):

reactant | 3′,5′-O-bis (t-butyldimethylsilyl)-2′-O-methyl uridine | 750 mg | [Si](C)(C)(C(C)(C)C)[C@@]1([C@H]([C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1)OC)O | C22H42N2O6Si2
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | 1-methylpiperidine | CN1CCCCC1 | C6H13N
reactant | p-toluenesulfonyl chloride | 614 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.45 mL | C(C)N(CC)CC | C6H15N
product | [[3,5-O-bis(t-butyldimethylsilyl)-2-O-methylribofuranos-1-yl]-2-oxo-1,2-dihydro-4-pyrimidinyl]-1-methylpiperidinium chloride | [Cl-].[Si](C)(C)(C(C)(C)C)[C@@]1([C@H](C(O)(O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C(N=C(C=C1)[N+]1(CCCCC1)C)=O)OC)O | InChI=1S/C28H54N3O6Si2.ClH/c1-25(2,3)38(9,10)27(33)21(20-36-39(11,12)26(4,5)6)37-28(34,23(27)35-8)30-17-16-22(29-24(30)32)31(7)18-14-13-15-19-31;/h16-17,21,23,33-34H,13-15,18-20H2,1-12H3;1H/q+1;/p-1/t21-,23-,27+,28?;/m1./s1
